US06555699B2
Preparation of 1α-(tert-Butyldimethylsilyloxy)-3β-hydroxy-20(S)-(2-hydroxy-2-methylpropylthio)pregna-5,7,16-triene
Under the same conditions as in Example 3, 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene (83.0 mg, 0.143 mmol), isobutylene oxide (113 mg, 1.56 mmol), tetrahydrofuran (0.5 ml) and 1M KOH solution in methanol (0.5 ml) were reacted and worked up, and then the residue was purified by preparative thin layer chromatography (0.5 mm×2, hexane:ethyl acetate=1:1, developed once) to give the title compound as a colorless oil (62.3 mg, 82%).

reactant | 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene | 0.143 mmol, 83.0 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SC(=O)OC5=CC=CC=C5)[C@]4(CC[C@@H]3[C@@]12C)C)O | C34H48O4SSi
reactant | isobutylene oxide | 1.56 mmol, 113 mg | CC1(C)CO1 | C4H8O
reactant | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
reactant | KOH | 1M | [OH-].[K+]
solvent | methanol | 0.5 ml | CO | CH4O
product | 1α-(tert-Butyldimethylsilyloxy)-3β-hydroxy-20(S)-(2-hydroxy-2-methylpropylthio)pregna-5,7,16-triene | 62.3 mg, 82% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SCC(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C31H52O3SSi
